US08076345B2
E) (S)-2-Azido-2-(6-methoxypyridin-3-yl)ethanol
To a stirred solution of (R)-2-methoxy-5-(oxiran-2-yl)pyridine (1.02 g, 6.75 mmol) in acetonitrile (100 mL) were added sodium azide (1.8 g, 27 mmol) and lithium perchlorate (11 g, 0.10 mol) and the mixture was stirred at 60° C. for 4 h. TLC indicated completion of the reaction. After cooling, the mixture was filtered through Celite and the filtrate was concentrated. The residue was treated with water and extracted with EtOAc (3×50 mL). The combined organic layers were washed with aq. NaHCO3 and brine, dried (Na2SO4), and concentrated. The residue was purified by silica gel column (0-50% EtOAc/hexane) to yield a light yellow oil (0.9 g, 69%).

reactant | (R)-2-methoxy-5-(oxiran-2-yl)pyridine | 6.75 mmol, 1.02 g | COC1=NC=C(C=C1)[C@H]1OC1 | C8H9NO2
reactant | sodium azide | 27 mmol, 1.8 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium perchlorate | 0.10 mol, 11 g | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-2-Azido-2-(6-methoxypyridin-3-yl)ethanol | 0.9 g, 69% | N(=[N+]=[N-])[C@H](CO)C=1C=NC(=CC1)OC | C8H10N4O2
